### PR TITLE
Extra theorems about subn minn and maxn

### PR DESCRIPTION
**Pull request by thery**
##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- ~added corresponding documentation in the headers~

The theorems are missing but I am not very happy about their proofs

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: CHANGELOG_UNRELEASED.md [hunk 1]
```diff
@@ -10,6 +10,9 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
 
 ### Added
 
+Added theorems about subtraction and min and max :
+       `subn_minr` `subn_maxr`i in `ssrnat.v`
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:14]:
```suggestion
       `subn_minr` `subn_maxr` in `ssrnat.v`
```

File: mathcomp/ssreflect/ssrnat.v [hunk 2]
```diff
@@ -673,6 +673,15 @@ Proof. by move=> m1 m2 n; rewrite !maxnE subnDr addnAC. Qed.
 Lemma addn_maxr : right_distributive addn maxn.
 Proof. by move=> m n1 n2; rewrite !(addnC m) addn_maxl. Qed.
 
+Lemma subn_maxr : left_distributive subn maxn.
```
Comment (pi8027) [inline mathcomp/ssreflect/ssrnat.v:676]: If suffixes `l` and `r` stand for left and right distributivity, this should be named `subn_maxl`.

File: mathcomp/ssreflect/ssrnat.v [hunk 3]
```diff
@@ -673,6 +673,15 @@ Proof. by move=> m1 m2 n; rewrite !maxnE subnDr addnAC. Qed.
...
+Proof.
+move=> m n p; rewrite /maxn; case: leqP => [nLm|mLn].
```
Comment (pi8027) [inline mathcomp/ssreflect/ssrnat.v:678]: `leqP` has been relocated in #429 after `maxn`/`minn` lemmas, so this does not work. I guess we should use `leq_total` instead here.

File: mathcomp/ssreflect/ssrnat.v [hunk 4]
```diff
@@ -734,6 +743,15 @@ Proof. by move=> m1 m2 n; rewrite !minnE subnDl addnBA ?leq_subr. Qed.
 Lemma addn_minl : left_distributive addn minn.
 Proof. by move=> m1 m2 n; rewrite -!(addnC n) addn_minr. Qed.
 
+Lemma subn_minr : left_distributive subn minn.
```
Comment (pi8027) [inline mathcomp/ssreflect/ssrnat.v:746]: `subn_minl` ?

File: CHANGELOG_UNRELEASED.md [hunk 5]
```diff
@@ -20,6 +20,8 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
 - in `finset.v`, neq lemmas: `set_enum`, `cards_eqP`, `cards2P`
 - in `fingraph.v`, new lemmas: `fcard_gt0P`, `fcard_gt1P`
 - in `finset.v`, new lemmas: `properC`, `properCr`, `properCl`
+Added theorems about subtraction and min and max :
+       `subn_minr` `subn_maxr` in `ssrnat.v`
```
Comment (pi8027) [inline CHANGELOG_UNRELEASED.md:24]:
```suggestion
- Added theorems about subtraction and min and max :
       `subn_minl` and `subn_maxl` in `ssrnat.v`
```

Comment (thery) [reply CHANGELOG_UNRELEASED.md]: :see_no_evil: Thanks!
